US07498353B2
(S)-tert-Butyl 4-(tert-butoxycarbonylamino)-5-(methoxy(methyl)amino)-5-oxopentanoate (4.12 g, 12.2 mmol) was dissolved in anhydrous tetrahydrofuran (100 mL) and cooled to −70° C. under nitrogen. Vinylmagnesium bromide (37 mL, 1.0 M soln in THF, 3.0 eq) was added dropwise. The reaction stirred for 30 min at −70° C. and was then the cooling bath was removed and the reaction stirred at room temperature overnight. The mixture was colled on in an ice bath and acetic anhydride (20 mL) was added, followed by methanol (27 mL). The mixture was concentrated under pressure to a small volume and then diluted with ethyl acetate. The reaction mixture was washed successively with water and brine and dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. The resulting residue was purified by flash column chromatography, on silica gel, eluting with 1:4 ethyl acetate:hexanes to yield (S)-tert-butyl 4-(tert-butoxycarbonylamino)-5-oxohept-6-enoate (0.94 g) as a yellow oil. 1H NMR (CDCl3): 6.48-6.45 (m, 2H), 5.94 (m, 1H), 5.29 (m, 1H), 4.70 (m, 1H), 2.38-2.05 (m, 2H), 2.02 (m, 1H), 1.70 (m, 1H), 1.45 ppm (s, 18H).

reactant | (S)-tert-Butyl 4-(tert-butoxycarbonylamino)-5-(methoxy(methyl)amino)-5-oxopentanoate | 12.2 mmol, 4.12 g | C(C)(C)(C)OC(=O)N[C@@H](CCC(=O)OC(C)(C)C)C(=O)N(C)OC | C16H30N2O6
reactant | Vinylmagnesium bromide | C(=C)[Mg]Br
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | THF | C1CCOC1 | C4H8O
product | (S)-tert-butyl 4-(tert-butoxycarbonylamino)-5-oxohept-6-enoate | 0.94 g | C(C)(C)(C)OC(=O)N[C@@H](CCC(=O)OC(C)(C)C)C(C=C)=O | C16H27NO5
